US07666888B2
5-(2-Chlorophenyl)-4-({3-[4-(trifluoromethyl)phenyl]pyrrolidin-1-yl}carbonyl)isoxazole
The title compound was prepared from 5-(2-chlorophenyl)isoxazole-4-carboxylic acid (11.2 mg, 0.050 mmol) and 3-[4-(trifluoromethyl)phenyl]pyrrolidine oxalate (15.1 mg, 0.050 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (3.8 mg). Calcd for C21H16ClF3N2O2: 420.0852, found 420.0855.

reactant | 5-(2-chlorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.2 mg | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | 3-[4-(trifluoromethyl)phenyl]pyrrolidine oxalate | 0.050 mmol, 15.1 mg | C(C(=O)O)(=O)O.FC(C1=CC=C(C=C1)C1CNCC1)(F)F
product | 5-(2-Chlorophenyl)-4-({3-[4-(trifluoromethyl)phenyl]pyrrolidin-1-yl}carbonyl)isoxazole | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)N1CC(CC1)C1=CC=C(C=C1)C(F)(F)F | C21H16ClF3N2O2
